US05025025
To a solution of 2.53 g (5.9 mmol) of 6-(p-chlorophenylsulfonamido)-2-[3-(3-pyridyl)propyl]-hexanoic acid in 150 mL ethanol is slowly added 1.5 mL (20.5 mmol) thionyl chloride and the reaction mixture is subjected to reflux for 8 hours. The solvent is evaporated and the residue is adjusted to pH 8 using 1N aqueous sodium hydroxide solution. The mixture is then extracted with methylene chloride (2×50 mL). Combined organic extracts are dried (MgSO4) and evaporated to give an oil which is then purified by flash chromatography using ether as the eluent to obtain ethyl 6-(p-chlorophenylsulfonamido)-2-[3-(3pyridyl)propyl]-hexanoate as an oil.

reactant | 6-(p-chlorophenylsulfonamido)-2-[3-(3-pyridyl)propyl]-hexanoic acid | 5.9 mmol, 2.53 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(C(=O)O)CCCC=1C=NC=CC1 | C20H25ClN2O4S
reactant | thionyl chloride | 20.5 mmol, 1.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 150 mL | C(C)O | C2H6O
product | ethyl 6-(p-chlorophenylsulfonamido)-2-[3-(3pyridyl)propyl]-hexanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(C(=O)OCC)CCCC=1C=NC=CC1 | C22H29ClN2O4S
